US06333428B1
2.8 g of (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-hydroxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate and 2.5 g of t-butyldimethylchlorosilane were dissolved into 14 ml of N,N-dimethylformamide. 1.0 g of imidazole was further added thereto with ice-cooling, and this was stirred at room temperature for one day. The reaction solution was poured into water, and extracted with n-hexane-ethyl acetate (1:9). The obtained organic layer was washed with, in sequence, water and a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. After filtering off the desiccant, concentration of the filtrate was carried out under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=15:1), yielding 3.8 g of (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-t-butyldimethylsilyloxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate. The proton NMR and mass spectrograph data are shown below.

reactant | (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-hydroxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 2.8 g | FC1(C2C(CC(C12)=O)O)C(=O)OCC | C9H11FO4
reactant | t-butyldimethylchlorosilane | 2.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
reactant | imidazole | 1.0 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-t-butyldimethylsilyloxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 3.8 g | FC1(C2C(CC(C12)=O)O[Si](C)(C)C(C)(C)C)C(=O)OCC | C15H25FO4Si
